US07700655B2
(3) 5-Isobutyryl-2-methoxybenzoic acid
5-Isobutyryl-2-methoxybenzoic acid methyl ester (143.1 mg, 0.60 mmol) was dissolved in methanol (5 mL). 2N Aqueous sodium hydroxide (1 ml) was added, and the mixture was refluxed for 1 hour. After cooling, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and evaporated under reduced pressure to give the title compound (134 mg, yield: quantitative) as a white crystal.

reactant | 5-Isobutyryl-2-methoxybenzoic acid methyl ester | 0.60 mmol, 143.1 mg | COC(C1=C(C=CC(=C1)C(C(C)C)=O)OC)=O | C13H16O4
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 5-Isobutyryl-2-methoxybenzoic acid | 134 mg, yield: quantitative | C(C(C)C)(=O)C=1C=CC(=C(C(=O)O)C1)OC | C12H14O4
